US04508921
200 milligrams of (S)-N-carbobenzyloxy-α-methyltyrosine is mixed together with 20 milligrams of 10 percent palladium on carbon catalyst and 10 milliliters of methanol and the mixture subjected to hydrogen at a pressure of 40 psi for several hours. Thereafter, the catalyst is removed and the filtrate concentrated to obtain a (S)-α-methyltyrosine product.

reactant | (S)-N-carbobenzyloxy-α-methyltyrosine | 200 milligrams | C(=O)(OCC1=CC=CC=C1)N[C@@](CC1=CC=C(C=C1)O)(C(=O)O)C | C18H19NO5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 20 milligrams | [Pd] | Pd
solvent | methanol | 10 milliliters | CO | CH4O
product | (S)-α-methyltyrosine | C[C@](N)(CC1=CC=C(C=C1)O)C(=O)O | C10H13NO3
